US07713996B2
1-(5-Chloro-2-methoxy-benzenesulfonyl)-3-methyl-2,3-dihydro-1H-indole-6-carboxylic acid was reacted with ethyl 4-aminobenzoate in analogy to example 62, step 4, yielding 4-{[1-(5-chloro-2-methoxy-benzenesulfonyl)-3-methyl-2,3-dihydro-1H-indole-6-carbonyl]-amino}-benzoic acid ethyl ester. White foam, MS (ISP) 529.1 (M+H).

reactant | 1-(5-Chloro-2-methoxy-benzenesulfonyl)-3-methyl-2,3-dihydro-1H-indole-6-carboxylic acid | ClC=1C=CC(=C(C1)S(=O)(=O)N1CC(C2=CC=C(C=C12)C(=O)O)C)OC | C17H16ClNO5S
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
product | 4-{[1-(5-chloro-2-methoxy-benzenesulfonyl)-3-methyl-2,3-dihydro-1H-indole-6-carbonyl]-amino}-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(=O)C1=CC=C2C(CN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC)C)=O | C26H25ClN2O6S
